### PR TITLE
π₄S³≡ℤ/2

### PR DESCRIPTION
**Pull request by aljungstrom**
Finally managed to clean this mess up a bit... This PR contains the final steps of the proof of π₄S³≡ℤ/2. More specifically:

1. A rather silly construction of exact sequences of 4 groups (`Exact4`). This construction was pretty useful for transporting between various exact sequences, so I think we should keep it. It captures a pretty common situation anyway.
2. A proof that given such a sequence ℤ -ᶠ→ ℤ → A → 1, we get an iso A ≅ ℤ/abs(f(1)).
3. The construction of the iso π₄S³≅ℤ/n, where n is some complicated number defined as the Hopf invariant of the Whitehead product of etc. etc. (`Cubical.Homotopy.Group.Pi4S3.BrunerieIso`)
4. A proof that this number is 2 `Cubical.Homotopy.HopfInvariant.Brunerie`.
5. The final result (`Cubical.Homotopy.Group.Pi4S3.Summary`)

### CODE REVIEW

File: Cubical/Algebra/Group/IsomorphismTheorems.agda [hunk 1]
```diff
@@ -35,13 +36,20 @@ module _ {G H : Group ℓ} (ϕ : GroupHom G H) where
...
-    kerϕ : NormalSubgroup G
-    kerϕ = kerSubgroup ϕ , isNormalKer ϕ
 
-    imϕ : Group ℓ
-    imϕ = imGroup ϕ
+  kerϕ : NormalSubgroup G
+  kerϕ = kerSubgroup ϕ , isNormalKer ϕ
+
+  imϕ : Group ℓ
+  imϕ = imGroup ϕ
```
Comment (mortberg) [inline Cubical/Algebra/Group/IsomorphismTheorems.agda:44]: Should these really be public? Seems like something that is specific for this proof, or?

File: Cubical/Algebra/Group/ZAction.agda [hunk 2]
```diff
@@ -394,17 +408,50 @@ module _ (ϕ : GroupEquiv ℤGroup ℤGroup) where
           (λ h → sym (abs- _) ∙ sym (cong abs h))
           (ℤEquivIsIdOr- g)
 
-
 -- A few consequences of the above lemmas
 
+-Equivℤ : GroupEquiv ℤGroup ℤGroup
+fst -Equivℤ =
+  isoToEquiv
+    (iso (GroupStr.inv (snd ℤGroup))
```
Comment (mortberg) [inline Cubical/Algebra/Group/ZAction.agda:416]: We should probably give this Iso a name and put on the top level?

File: Cubical/Algebra/Group/ZAction.agda [hunk 3]
```diff
@@ -394,17 +408,50 @@ module _ (ϕ : GroupEquiv ℤGroup ℤGroup) where
...
+         (GroupTheory.invInv ℤGroup))
+snd -Equivℤ =
+  makeIsGroupHom λ x y
+    → +Comm (pos 0) (- (x +ℤ y))
+    ∙ -Dist+ _ _
+    ∙ cong₂ _+ℤ_ (+Comm (- x) (pos 0)) (+Comm (- y) (pos 0))
+
+characℤ≅ℤ : (e : GroupEquiv ℤGroup ℤGroup)
+          → (e ≡ idGroupEquiv)
+           ⊎ (e ≡ -Equivℤ)
```
Comment (mortberg) [inline Cubical/Algebra/Group/ZAction.agda:428]: Maybe putting the type on one line would make it easier to parse?

File: Cubical/Algebra/Group/IsomorphismTheorems.agda (hunk 1 above)
Comment (mortberg) [reply Cubical/Algebra/Group/IsomorphismTheorems.agda:44]: If they are used elsewhere maybe have better names... `imGroup` is fine, but the kernel as a normal subgroup could have a nicer name

File: Cubical/Data/Fin/Base.agda [hunk 4]
```diff
@@ -95,3 +95,8 @@ any? {n = suc n} {P = P} P? =
     helper (x , Px) with fsplit x
     ... | inl x≡0 = inl (subst P (sym x≡0) Px)
     ... | inr (k , x≡sk) = inr (k , subst P (sym x≡sk) Px)
+
+FinPath : {n : ℕ} (x : Fin n) (y : ℕ) → fst x ≡ y → Σ[ p ∈ _ ] (x ≡ (y , p))
```
Comment (mortberg) [inline Cubical/Data/Fin/Base.agda:99]: This name is not great... Not sure what would be better, maybe `FinPathℕ` ?

File: Cubical/Data/Unit/Properties.agda [hunk 5]
```diff
@@ -54,6 +55,12 @@ module _ (A : Unit → Type ℓ) where
   ΠUnit : ((x : Unit) → A x) ≃ A tt
   ΠUnit = isoToEquiv ΠUnitIso
 
+fiberUnitIso : {A : Type ℓ} → Iso (fiber (λ (a : A) → tt) tt) A
```
Comment (mortberg) [inline Cubical/Data/Unit/Properties.agda:58]: Maybe open Iso here and drop all the `Iso.` everywhere?

File: Cubical/HITs/Pushout/Properties.agda [hunk 6]
```diff
@@ -507,3 +507,37 @@ module _ {ℓ : Level} {A₁ B₁ C₁ A₂ B₂ C₂ : Type ℓ}
 
   pushoutEquiv : Pushout f₁ g₁ ≃ Pushout f₂ g₂
   pushoutEquiv = isoToEquiv pushoutIso
+
+
+open import Cubical.Data.Unit
+open import Cubical.Foundations.Pointed
```
Comment (mortberg) [inline Cubical/HITs/Pushout/Properties.agda:513]: Move imports to the top of the file

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 7]
```diff
@@ -0,0 +1,526 @@
+{-
+The goal of this file is to prove the iso
+π₄S³≅ℤ/n where
+n a natural number (the Brunerie number, defined below).
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:4]:
```suggestion
n a natural number (aka "the Brunerie number", defined below).
```

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 8]
```diff
@@ -0,0 +1,526 @@
...
+
+open import Cubical.Algebra.Group
+  renaming (Unit to UnitGr)
+open import Cubical.Algebra.Group.Exact
+open import Cubical.Algebra.Group.ZAction
+open import Cubical.Algebra.Group.Instances.IntMod
+
+open Iso
+
+-- the Brunerie number (from his thesis)
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:58]:
```suggestion
-- The Brunerie number (see Corollary 3.4.5 in Guillaume's PhD thesis)
```

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 9]
```diff
@@ -0,0 +1,526 @@
...
+Brunerie : ℕ
+Brunerie =
+  abs (HopfInvariant-π' 0  [ ∣ idfun∙ (S₊∙ 2) ∣₂ ∣ ∣ idfun∙ (S₊∙ 2) ∣₂ ]π')
+
+-- First we need to define the following maps.
+W : S₊ 3 → (S₊∙ 2 ⋁ S₊∙ 2)
+W = joinTo⋁ {A = S₊∙ 1} {B = S₊∙ 1}
+   ∘ Iso.inv (IsoSphereJoin 1 1)
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:66]: Maybe put this on one line?

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 10]
```diff
@@ -0,0 +1,526 @@
...
+
+fold∘W : S₊ 3 → S₊ 2
+fold∘W = fold⋁ ∘ W
+
+open Exact4
+
+-- extending exact sequence on the left by surjective map
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:73]: Shouldn't this be together with the definition of `Exact4`?

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 11]
```diff
@@ -0,0 +1,526 @@
...
+        (λ y → J (λ y _ → Σ[ g ∈ fst G ] fst H→L (fst G→H g) ≡ H→L .fst y)
+        (y , refl))) (surj y)))
+    (KerH→L⊂ImG→H ex x ker)
+ImH→L⊂KerL→R (extendExact4Surjective G H L R S G→H H→L L→R R→S surj ex) =
+  ImH→L⊂KerL→R ex
+KerL→R⊂ImH→L (extendExact4Surjective G H L R S G→H H→L L→R R→S surj ex) =
+  KerL→R⊂ImH→L ex
+
+
+-- move to morphism
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:98]: Yes please

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 12]
```diff
@@ -0,0 +1,526 @@
...
+         → isSurjective G→H → isSurjective H→L
+         → isSurjective (compGroupHom G→H H→L)
+compSurjective G→H H→L surj1 surj2 l =
+  pRec squash
+    (λ {(h , p)
+      → pMap (λ {(g , q) → g , (cong (fst H→L) q ∙ p)})
+        (surj1 h)})
+    (surj2 l)
+
+-- We start off with this horrendous looking but useful lemma for
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:110]: Maybe move to `Exact4` file`?

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 13]
```diff
@@ -0,0 +1,526 @@
...
+For clarity:
+X, above will have two names (via a trivial iso) below:
+
+TotalPushoutPath× (the version the falls out of BM)
+P = fiber inr (Same name as in Brunerie's prop 4.3.4.)
+-}
+
+
+-- Before instantiating, we need to show that
+-- any map S³ → S² is 0-connected
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:190]: This should probably be moved somewhere else, but I'm not sure so unless you can think of a good place let's leave it

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 14]
```diff
@@ -0,0 +1,526 @@
+{-
+The goal of this file is to prove the iso
+π₄S³≅ℤ/n where
+n a natural number (the Brunerie number, defined below).
+-}
+{-# OPTIONS --safe --experimental-lossy-unification #-}
+module Cubical.Homotopy.Group.Pi4S3.BrunerieIso where
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:7]: Maybe call the file `BrunerieNumber`?

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 15]
```diff
@@ -0,0 +1,526 @@
...
+  (sym (GroupPath _ _ .fst ((GroupIso→GroupEquiv (π'Gr≅πGr 2 P)))))
+  (sym (GroupPath _ _ .fst ((GroupIso→GroupEquiv (π'Gr≅πGr 2 (S₊∙ 2))))))
+  (sym (GroupPath _ _ .fst ((GroupIso→GroupEquiv (π'Gr≅πGr 2 coFib-fold∘W∙)))))
+  (sym (GroupPath _ _ .fst π₂P≅0))
+  _ _ _ _ _
+  P→S²→Pushout
+  (toPathP (Σ≡Prop (λ _ → isPropIsGroupHom _ _)
+    (fromPathP λ i → fst (π∘∙fib→A-PathP 2 inr∙ i))))
+  ((toPathP (Σ≡Prop (λ _ → isPropIsGroupHom _ _)
+    (fromPathP λ i → fst (π∘∙A→B-PathP 2 inr∙ i)))))
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:342]: This `toPathP` composed with `fromPathP` looks kind of funny, but maybe there's not nicer way to do it?

Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:342]: This `toPathP` composed with `fromPathP` looks kind of funny, but maybe there's no nicer way to do it?

Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:342]: This `toPathP` composed with `fromPathP` looks kind of funny, but maybe there's no nicer way to do it?

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 16]
```diff
@@ -0,0 +1,526 @@
...
+        (π'Gr≅πGr 3 (S₊∙ 3))
+        (compGroupIso
+          π₄S³≅π₃PushS²
+          (invGroupIso (π'Gr≅πGr 2 (Pushout⋁↪fold⋁∙ (S₊∙ 2)))))))
+    (compGroupEquiv
+      (invGroupEquiv (π'Iso 2 Pushout-coFibW-fold⋁≃Pushout⋁↪fold⋁∙))
+      (π'Iso 2 (Pushout-coFibW-fold⋁≃coFib-fold∘W , sym (push north))))
+
+-- We get the iso
+-- For type checking reasong, let's first prove it for the abstract
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:474]:
```suggestion
-- For type checking reasons let's first prove it for the abstract
```

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda [hunk 17]
```diff
@@ -0,0 +1,526 @@
...
+      cong (fst (π'∘∙Hom 2 (fold∘W , refl)))
+           (cong (Iso.inv (fst (πₙ'Sⁿ≅ℤ 2))) (sym (πₙ'Sⁿ≅ℤ-idfun∙ 2))
+           ∙ (Iso.leftInv (fst (πₙ'Sⁿ≅ℤ 2)) ∣ idfun∙ (S₊∙ 3) ∣₂))
+    ∙ fold∘W≡Whitehead
+    ∙ cong ∣_∣₂ (sym ([]≡[]₂ (idfun∙ (S₊∙ 2)) (idfun∙ (S₊∙ 2))))
+
+  main : _ ≡ Brunerie
+  main i = abs (HopfInvariant-π' 0 (mainPath i))
+
+-- And, finally, we get the actual iso
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:523]:
```suggestion
-- And, finally, we get the actual iso (as in Corollary 3.4.5 in Guillaume's thesis)
```

File: Cubical/Homotopy/Group/Pi4S3/Summary.agda [hunk 18]
```diff
@@ -4,13 +4,16 @@ This file contains a summary of what remains for π₄(S³) ≡ ℤ/2ℤ to be p
 
 See the module π₄S³ at the end of this file.
 
+The --experimental-lossy-unification flag is used to speed up type checking.
+The file still type checks without it, but it's a lot slower.
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/Summary.agda:8]:
```suggestion
The file still type checks without it, but it's a lot slower (about 10 times).
```

File: Cubical/Homotopy/Group/Pi4S3/Summary.agda [hunk 19]
```diff
@@ -4,13 +4,16 @@ This file contains a summary of what remains for π₄(S³) ≡ ℤ/2ℤ to be p
```
Comment (mortberg) [inline Cubical/Homotopy/Group/Pi4S3/Summary.agda:4]: The comment above here needs to be updated

Comment (mortberg) [reply Cubical/Homotopy/Group/Pi4S3/Summary.agda:4]: Actually I think the file should be reorganized a bit, maybe dropping the π₄S³ module and just stating the key results in sequence

File: Cubical/ZCohomology/Groups/SphereProduct.agda [hunk 20]
```diff
@@ -0,0 +1,349 @@
...
+      (isOfHLevelRetractFromIso 0 (fst (Hⁿ-Sᵐ≅0 n m p)) isContrUnit)
+        ∣ f ∣₂ (0ₕ _))
+
+-- The iso
+×leftSuspensionIso : (n m : ℕ)
+  → GroupIso (coHomGr (suc (((suc n) + m)))
+                  (S₊ (suc n) × S₊ (suc m)))
+              (coHomGr (suc (suc ((suc n) + m)))
+                  (S₊ (suc (suc n)) × S₊ (suc m)))
+Iso.fun (fst (×leftSuspensionIso n m)) =
```
Comment (mortberg) [inline Cubical/ZCohomology/Groups/SphereProduct.agda:91]: Maybe open Iso and drop the `Iso.`?

File: Cubical/ZCohomology/Groups/Unit.agda [hunk 21]
```diff
@@ -83,3 +90,12 @@ snd (isContr-HⁿRed-Unit n) =
   sElim (λ _ → isOfHLevelPath 2 isSetSetTrunc _ _)
         λ {(f , p) → cong ∣_∣₂ (ΣPathP (funExt (λ _ → sym p)
                                      , λ i j → p (~ i ∨ j)))}
+
+×rUnitCohomIso : ∀ {ℓ} {A : Type ℓ} (n : ℕ)
+  → GroupIso (×coHomGr (suc n) A Unit) (coHomGr (suc n) A)
+Iso.fun (fst (×rUnitCohomIso n)) = fst
```
Comment (mortberg) [inline Cubical/ZCohomology/Groups/Unit.agda:96]: open Iso?

**Review by mortberg — CHANGES_REQUESTED** [review]
This is amazing! I had a lot of small nitpicking comments and the only major change I would like to do is to rewrite the Summary a bit

File: Cubical/Algebra/Group/Instances/IntMod.agda [hunk 22]
```diff
@@ -1,8 +1,9 @@
-{-# OPTIONS --safe #-}
+{-# OPTIONS --safe --experimental-lossy-unification #-}
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/Algebra/Group/Instances/IntMod.agda:1]: It allows me to keep many arguments implicit. So it's pure laziness;-) Fixed now

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda (hunk 13 above)
Comment (aljungstrom) [reply Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:190]: I'd vote for leaving it for now. If we want to generalise it in the future, it would probably belong in `Connected`

Comment (mortberg) [reply Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:190]: Ok, sounds good

File: Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda (hunk 11 above)
Comment (aljungstrom) [reply Cubical/Homotopy/Group/Pi4S3/BrunerieIso.agda:98]: wups:-)

**Comment by aljungstrom** [comment]
@mortberg So, fixed the stuff now. As discussed I left the summary file for you:-)

**Comment by kangrongji** [comment]
Congratulations! It's great to see a complete formalization come into reality!
